US04552891
A. Preparation of 5-(3,4-diethoxybenzylidene)rhodanine
A solution of 10.0 g. of 3,4-diethoxybenzaldehyde, 6.86 g. of rhodanine, and 14.5 g. of fused sodium acetate in 70 ml. of acetic acid was heated to reflux for one hour. The hot mixture was poured into one liter of water with stirring. The resulting precipitate was col-lected by filtration and dried. Recrystallization from ethanol provided 10.22 g. of the subtitle intermediate.

reactant | 3,4-diethoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
reactant | rhodanine | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | one liter | O | H2O
product | 5-(3,4-diethoxybenzylidene)rhodanine | C(C)OC=1C=C(C=C2C(NC(S2)=S)=O)C=CC1OCC | C14H15NO3S2
